US09062028B2
Step B. 3-(4-(1-(4-(2,3-Dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)propanal
To a solution of 1-(5-(1-(3,3-dimethoxypropyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one (40 mg, 0.081 mmol) in acetone (0.8 mL) was added 9 M H2SO4. The reaction mixture was stirred at room temperature for 2 h. After this time, the reaction mixture was partitioned between DCM and saturated NaHCO3, and stirred for 15 min. The organic layer was separated, dried over anhydrous Na2SO4, filtered, and concentrated to afford the title compound (36 mg, 100% yield). 1H NMR (400 MHz, CDCl3) δ 9.86 (s, 1H), 7.50 (s, 1H), 7.38 (s, 1H), 7.21-7.12 (m, 2H), 7.02 (t, J=7.9 Hz, 1H), 6.75 (d, J=7.5 Hz, 1H), 6.65 (d, J=8.1 Hz, 1H), 6.09 (s, 1H), 4.48 (t, J=6.3 Hz, 2H), 3.94 (s, 2H), 3.81-3.75 (m, 2H), 3.14 (t, J=6.3 Hz, 2H), 2.74 (t, J=7.1 Hz, 2H), 2.63 (s, 2H), 2.59 (d, J=4.3 Hz, 2H), 2.14 (s, 3H), 1.95-1.81 (m, 5H).

reactant | 1-(5-(1-(3,3-dimethoxypropyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | 0.081 mmol, 40 mg | COC(CCN1N=CC(=C1)C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O)OC | C29H37N3O4
reactant | H2SO4 | 9 M | OS(=O)(=O)O | H2O4S
solvent | acetone | 0.8 mL | CC(=O)C | C3H6O
product | 3-(4-(1-(4-(2,3-Dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)propanal | 36 mg, 100% yield | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=NN(C2)CCC=O)C=CC=C1C | C27H31N3O3
